US05932743
1-Ethoxycarbonylmethyl-2-{[(4-methoxy-benzoyl)-methyl-amino]-methyl}-3-(benzocyclohept-1-enyl)-1H-indole-6-carboxylic Acid
To a suspension of 2-{[(4-methoxy-benzoyl)-methyl-amino]-methyl}-3-(benzocyclohept-1-enyl)-1H-indole-6-carboxylic acid on Wang resin (100 mg; prepared according to the procedure outlined in Example 10) in dimethylformamide (1.5 mL) was added sodium hydride (60% in mineral oil; 20 mg) and the mixture was stirred at room temperature for 30 min. Ethyl bromoacetate (0.1 mL) was added and the mixture was stirred for 3 h. The mixture was filtered, washed with water (1×1.5 mL), tetrahydrofuran (2×1.5 mL), dichloromethane (2×1.5 mL), and dried. The product was cleaved from the resin by treatment with 1:1 trifluoroacetic acid/dichloromethane for 1 h; 1H NMR (DMSO-d6) δ 1.15 (t, 3 H), 2.10 (m, 2 H), 2.20 (m, 2 H), 2.70 (s, 3 H), 2.80 (m, 2 H), 3.80 (s, 3 H), 4.05 (q, 2 H), 4.80 (s, 2 H), 5.20 (br s, 2 H), 6.35 (t, 1 H), 6.80 (d, 1 H), 6.97 (d, 2 H), 7.08 (m, 2 H), 7.20 (m, 1 H), 7.38 (d, 2 H), 7.55 (d, 1 H), 7.80 (d, 1 H), 7.95 (s, 1 H), 11.40 (br s, 1 H).

reactant | 2-{[(4-methoxy-benzoyl)-methyl-amino]-methyl}-3-(benzocyclohept-1-enyl)-1H-indole-6-carboxylic acid | COC1=CC=C(C(=O)N(C)CC=2NC3=CC(=CC=C3C2C2=CC3=C(CCCCC3)C#C2)C(=O)O)C=C1 | C30H28N2O4
reactant | sodium hydride | 20 mg | [H-].[Na+]
reactant | Ethyl bromoacetate | 0.1 mL | BrCC(=O)OCC | C4H7BrO2
solvent | dimethylformamide | 1.5 mL | CN(C=O)C | C3H7NO
product | 1-Ethoxycarbonylmethyl-2-{[(4-methoxy-benzoyl)-methyl-amino]-methyl}-3-(benzocyclohept-1-enyl)-1H-indole-6-carboxylic Acid | C(C)OC(=O)CN1C(=C(C2=CC=C(C=C12)C(=O)O)C1=CC2=C(CCCCC2)C#C1)CN(C)C(C1=CC=C(C=C1)OC)=O | C34H34N2O6
